US05714518
Compound CC was prepared in the following manner. Mg turnings (1.75 g, 0.072 g atom) were placed in an oven dried 250 ml 3 neck flask with condenser and addition funnel (all assembled hot). The entire apparatus was evacuated and filled with argon. The flask was charged with 10 ml of anhydrous THF and the addition funnel was charged with 8.0 gm (43.7 mmol) of 1-bromostyrene in 50 ml of anhydrous THF. Five (5) ml of the 1-bromostyrene solution was added to the Mg turnings and the mixture was heated to 65°-70° C. and the remainder of the solution was added over 1 hour. The mixture was heated an additional 30 min., then cooled to room temperature over 1 hour, then poured over crushed dry ice and the dry ice was allowed to evaporate. The mixture was made strongly acidic with 150 ml of 10% HCl solution. The organic phase was separated and the aqueous phase was extracted three times with ether. The combined organic phase was poured into 150 ml of 20% KOH solution, the solution was separated and the basic phase was filtered to remove polymer. The basic phase was then acidified with 10% HCl solution and extracted three times with 100 ml portions of ether. The extracts were combined, washed with 100 ml of brine and dried over Na2SO4. The solution was filtered and concentrated to a white solid which was recrystallized from chloroform/hexane solution to yield 6.44 g (66%) of 1-vinylbenzoic acid in two crops.

reactant | 1-bromostyrene | 43.7 mmol, 8.0 gm | BrC1(C=C)CC=CC=C1 | C8H9Br
reactant | dry ice | C(=O)=O | CO2
solvent | THF | 50 ml | C1CCOC1 | C4H8O
product | 1-vinylbenzoic acid | 6.44 g, 66% | C(=C)C1(C(=O)O)CC=CC=C1 | C9H10O2
